US05155122
5- [2-[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]ethenyl]-1,3,4-oxadiazole-2(3H)-thione
Potassium hydroxide (0.5 g, 0.0096 mole) is added in one portion to a stirred 0° C. solution of 3,5-bis(1,1-dimethylethyl)-4-hydroxycinnamic acid hydrazide (2.8 g, 0.0096 mole) and carbon disulfide (1.7 g, 0.022 mole) in absolute ethanol (15.0 ml). The resulting mixture is stirred 1.5 hours at 0° C. before heating to reflux for four hours. The solution is cooled and the solvent is removed in vacuo. The residue is dissolved in water (50 ml) and washed with ether (20 ml). The aqueous layer is made acidic with aqueous 2M HCl and the product extracted with a 1:1 mixture of ethyl acetate/ether. The combined organic extracts are washed with saturated aqueous NaCl and

reactant | Potassium hydroxide | 0.0096 mole, 0.5 g | [OH-].[K+]
reactant | 3,5-bis(1,1-dimethylethyl)-4-hydroxycinnamic acid hydrazide | 0.0096 mole, 2.8 g | CC(C)(C)C=1C=C(C=CC(=O)NN)C=C(C1O)C(C)(C)C | C17H26N2O2
reactant | carbon disulfide | 0.022 mole, 1.7 g | C(=S)=S | CS2
solvent | ethanol | 15.0 ml | C(C)O | C2H6O
product | 5- [2-[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]ethenyl]-1,3,4-oxadiazole-2(3H)-thione | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=CC1=NNC(O1)=S | C18H24N2O2S
